US06927214B1
6,7-Dinitro-2-phenyl-3-trifluoromethylquinoxaline
The title compound was prepared from 4,5-dinitro-1,2-phenylenediamine (890 mg, 4.5 mmol) and 3,3,3-trifluoro-1-phenyl-1,2-propanedione hydrate (1 g, 4.9 mmol) similarly as described in example 144.

reactant | 4,5-dinitro-1,2-phenylenediamine | 4.5 mmol, 890 mg | [N+](=O)([O-])C1=CC(=C(C=C1[N+](=O)[O-])N)N | C6H6N4O4
reactant | 3,3,3-trifluoro-1-phenyl-1,2-propanedione hydrate | 4.9 mmol, 1 g | O.FC(C(C(=O)C1=CC=CC=C1)=O)(F)F
product | 6,7-Dinitro-2-phenyl-3-trifluoromethylquinoxaline | [N+](=O)([O-])C=1C=C2N=C(C(=NC2=CC1[N+](=O)[O-])C1=CC=CC=C1)C(F)(F)F | C15H7F3N4O4
